US08389513B2
5-(2,2-Difluoro-ethoxy)-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-2) and 5-(2,2-difluoro-ethoxy)-pyridine-2-carboxylic acid (CAS1097730-45-4, WO2009091016) following procedure I yielded the title compound as a white solid. MS (ISP): m/z=473.1 [M+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OC(C1(F)F)(C)C)N)C)F | C13H16F3N3O
reactant | 5-(2,2-difluoro-ethoxy)-pyridine-2-carboxylic acid | FC(COC=1C=CC(=NC1)C(=O)O)F | C8H7F2NO3
product | 5-(2,2-Difluoro-ethoxy)-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OC(C([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1)OCC(F)F)(F)F)(C)C | C21H21F5N4O3
